US08703953B2
A solution of (S)-tert-butyl(4-methyl-1-((4-methyl-5H-chromeno[3,4-c]pyridin-8-yl)oxy)pentan-2-yl)carbamate (35 mg, 0.085 mmol) in DCM (3 mL) was cooled to 0° C. and then TFA (0.033 mL, 0.424 mmol) was added. The reaction mixture was stirred at room temperature for 2 h, then neutralized with saturated NaHCO3 and extracted with EtOAc (3×5 mL). Organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure to afford crude which was purified by column chromatography on silica gel to afford material which air oxidized during purification to afford (S)-8-((2-amino-4-methylpentyl)oxy)-4-methyl-5H-chromeno[3,4-c]pyridin-5-one (3 mg, 9.19 umol, 10% yield) as yellow solid. 1H NMR (400 MHz, CD3OD) δ 8.67 (d, J=5.6 Hz, 1H) 8.19-8.23 (m, 1H) 8.02-8.06 (d, J=5.6 Hz, 1H) 7.06-7.10 (m, 1H) 6.98 (s, 1H), 4.08-4.14 (m, 1H), 3.91-3.97 (m, 1H), 3.28-3.30 (m, 1H), 3.01 (s, 3H), 1.80-1.88 (m, 1H), 1.41-1.48 (m, 2H), 0.97-1.03 (m, 6H); LCMS (ESI) m/e 327.2 [(M+H)+, calcd for C19H23N2O3 327.2]; LC/MS retention time (Method G): tR=0.82 min; HPLC retention time (method A): tR=8.47 min; HPLC retention time (method B): tR=8.90 min.

reactant | (S)-tert-butyl(4-methyl-1-((4-methyl-5H-chromeno[3,4-c]pyridin-8-yl)oxy)pentan-2-yl)carbamate | 0.085 mmol, 35 mg | C(C)(C)(C)OC(N[C@H](COC=1C=CC2=C(C1)OCC1=C(N=CC=C12)C)CC(C)C)=O | C24H32N2O4
reactant | TFA | 0.424 mmol, 0.033 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (S)-8-((2-amino-4-methylpentyl)oxy)-4-methyl-5H-chromeno[3,4-c]pyridin-5-one | 9.19 umol, 3 mg, 10% yield | N[C@H](COC=1C=CC2=C(C1)OC(C1=C(N=CC=C12)C)=O)CC(C)C | C19H22N2O3
